US07964757B2
Catechol (22.0 g, 0.2 moles) and diiron trioxide (ferric oxide) (31.9 g, 0.2 moles) were added into water (110 mL), and 98% sulfuric acid (440 g, 4.4 moles) was added dropwise to the solution while temperature of the solution was maintained at 30° C. or lower, to adjust the concentration in percent by weight of sulfuric acid in the reaction system at 80%. The solution was reacted at 30° C. for 6 hours with stirring. After completion of the reaction, water (500 mL) was added dropwise to the reaction solution, and the reaction solution was stirred for another 30 minutes. The resultant precipitate was collected by filtration, and the obtained crude crystal was washed with water and dried to give crude crystal (19.2 g). After a part of the crude crystal (5.0 g among 19.2 g) was dispersed in a mixed solvent of water (50 mL) and acetonitrile (200 mL), the dispersion liquid was heated up and stirred for 1 hour. After that, this dispersion liquid was filtered in hot state to filter off insoluble matter, the filtrate was then concentrated under reduced pressure, and the precipitated crystal was collected by filtration, and then dried, to give 2,3,6,7,10,11-hexahydroxytriphenylene (2.56 g, theoretical yield from catechol: 45.5%) in black powder form. 1H-NMR data of the obtained 2,3,6,7,10,11-hexahydroxytriphenylene measured were in accordance with those of 2,3,6,7,10,11-hexahydroxytriphenylene described in the reference. Also, the measurement results of 1H-NMR are shown below. In addition, content of iron ion in the obtained crystal was measured by inductively-coupled plasma optical emission spectroscopy (ICP-OES), and was found that content of iron ion (reduced quantity from metal iron) in the obtained 2,3,6,7,10,11-hexahydroxytriphenylene (2.56 g) was 0.087 mg (0.034 mg/g). Also, the measurement of iron ion content by inductively-coupled plasma optical emission spectroscopy was carried out using inductively-coupled plasma optical emission spectrometer SPS 3100 (manufactured by SII Nanotechnology Inc.) as follows. Several samples containing appropriate amount of metal iron dissolved in n-methyl-2-pyrrolidone were measured and a calibration curve was obtained based on the measurement results, in advance. Content of iron ion in 2,3,6,7,10,11-hexahydroxytriphenylene was obtained from the calibration curve.

reactant | Catechol | 0.2 moles, 22.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | water | 110 mL | O | H2O
reactant | sulfuric acid | 4.4 moles, 440 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 500 mL | O | H2O
reactant | water | 50 mL | O | H2O
catalyst | diiron trioxide | 0.2 moles, 31.9 g | [O-2].[O-2].[O-2].[Fe+2].[Fe+2]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2,3,6,7,10,11-hexahydroxytriphenylene | 2.56 g, 45.5% | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1O)O)O)O)O | C18H12O6
